US07166583B2
[2-(5-Chloro-1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy)-ethyl]-dimethyl-amine (I; X=S, Y=5-Cl, Z=H, m=1, R1=(CH3)2N(CH2)2OCH2, R2=H)
To a solution of {2-[5-chloro-1-(2-trimethylsilyl-ethoxymethyl)-1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy]-ethyl}-dimethyl-amine (0.21 mmole) in methanol (6.0 ml), 0.5 M hydrochloric acid in methanol (2.0 ml) was slowly added. The reaction mixture was heated under reflux for 3 hours, then it was cooled to room temperature, neutralized with a saturated aqueous solution of sodium hydrogencarbonate, diluted with water and extracted with dichloromethane. The organic extract was washed with an aqueous sodium chloride solution, dried over anhydrous Na2SO4 and evaporated under reduced pressure. After purification by chromatography on a silica gel column, [2-(5-chloro-1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy)-ethyl]-dimethyl-amine in the form of an oily product was obtained;

reactant | {2-[5-chloro-1-(2-trimethylsilyl-ethoxymethyl)-1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy]-ethyl}-dimethyl-amine | 0.21 mmole | ClC1=CC2=C(SC3=C(C=4N(C(=NC24)COCCN(C)C)COCC[Si](C)(C)C)C=CC=C3)C=C1 | C26H34ClN3O2SSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 6.0 ml | CO | CH4O
solvent | hydrochloric acid | 0.5 M | Cl | ClH
solvent | methanol | 2.0 ml | CO | CH4O
solvent | water | O | H2O
product | [2-(5-Chloro-1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy)-ethyl]-dimethyl-amine | ClC1=CC2=C(SC3=C(C=4NC(=NC24)COCCN(C)C)C=CC=C3)C=C1 | C20H20ClN3OS
